US04159375
To a solution of 11.9 g. of 5-(p-fluorophenyl)-3-(methylthio)-1,2,4-triazine in 50 ml. of 1:1 methanol-tetrahydrofuran is added 2.1 ml. of 95% hydrazine. The mixture is refluxed for 12 hours and then cooled. The solid which forms is collected by filtration and washed with hexane, giving 5-(p-fluorophenyl)-3-hydrazino-1,2,4-triazine as a yellow solid.

reactant | 5-(p-fluorophenyl)-3-(methylthio)-1,2,4-triazine | FC1=CC=C(C=C1)C=1N=C(N=NC1)SC | C10H8FN3S
reactant | hydrazine | NN | H4N2
solvent | methanol tetrahydrofuran | CO.O1CCCC1
product | 5-(p-fluorophenyl)-3-hydrazino-1,2,4-triazine | FC1=CC=C(C=C1)C=1N=C(N=NC1)NN | C9H8FN5
